US07247734B2
This compounds was synthesised in the same manner as described above. 3-(3,4-Dimethoxy-phenyl)-7-hydroxy-chromen-4-one (0.5 g, 1.68 mmol), hydrazine hydrate (4 ml), ethanol (10 ml). The crude product was columned to give 4-[4-(3,4-Dimethoxy-phenyl)-1H-pyrazol-3-yl]-benzene-1,3-diol as a pale yellow solid (0.29 g, 55.3%); Rf 0.2 Cf SM 0.7 ethyl acetate/hexane (75/25).

reactant | 3-(3,4-Dimethoxy-phenyl)-7-hydroxy-chromen-4-one | 1.68 mmol, 0.5 g | COC=1C=C(C=CC1OC)C1=COC2=CC(=CC=C2C1=O)O | C17H14O5
reactant | hydrazine hydrate | 4 ml | O.NN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[4-(3,4-Dimethoxy-phenyl)-1H-pyrazol-3-yl]-benzene-1,3-diol | 0.29 g, 55.3% | COC=1C=C(C=CC1OC)C=1C(=NNC1)C1=C(C=C(C=C1)O)O | C17H16N2O4
